US05834506
3-[2-tert-Butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenylsulfanyl]-4-hydroxy-6-[4-(2-hydroxy-ethoxy)-phenyl]-6-phenethyl-5,6-dihydro-pyran-2-one
To a round bottom flask equipped with a magnetic stirrer were added 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenyl}-4-hydroxy-6-phenethyl-5,6-dihydro-pyran-2-one (prepared in Example SS; 0.260 g, 0.555 mmol), toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl} ester (prepared in Example PPP; 0.282 g, 0.555 mmol), K2CO3 (0.346 g, 2.50 mmol), and DMF (5 mL), as described in General Method 9. The mixture was stirred at room temperature for 2 days at which time MeOH (150 mL) was added and the solution taken to pH 3.0 with conc. HCl . The reaction was quenched with H2O (500 mL) and extracted with EtOAc. The organics were dried over MgSO4 and concentrated; the residue was taken up in a small amount of EtOAc and triturated with hexane. The solid was filtered and dried under high vacuum to yield the title compound, m.p. >190° C. (dec.). 1H NMR (DMSO-d6) δ 1.45 (s, 9 H), 1.68 (s, 3 H), 2.22 (br m, 4 H), 2.51 (br m, partially obscured by DMSO, 2 H), 3.34 (d of ABX q, partially obscured by H2O, 1 H), 3.40 (d of ABX q, partially obscured by H2O, 1 H), 3.67 (br m, 2 H), 3.72 (br m, 2 H), 3.91 (t, 2 H), 3.98 (t, 2 H), 6.76 (s, 1 H), 6.96 (s, 1 H), 6.99 (d, 2 H), 7.08-7.22 (m, 1 H), 7.10 (d, 2 H), 7.24 (d, 2 H), 7.30 (d, 2 H).

reactant | 6-{4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-phenyl}-4-hydroxy-6-phenethyl-5,6-dihydro-pyran-2-one | 0.555 mmol, 0.260 g | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)C1(CC(=CC(O1)=O)O)CCC1=CC=CC=C1)(C)C | C27H36O5Si
reactant | toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl} ester | 0.555 mmol, 0.282 g | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO[Si](C)(C)C(C)(C)C)C)SS(=O)(=O)C1=CC=C(C=C1)C | C26H40O4S2Si
reactant | K2CO3 | 2.50 mmol, 0.346 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | MeOH | 150 mL | CO | CH4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[2-tert-Butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenylsulfanyl]-4-hydroxy-6-[4-(2-hydroxy-ethoxy)-phenyl]-6-phenethyl-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO)C)SC=1C(OC(CC1O)(CCC1=CC=CC=C1)C1=CC=C(C=C1)OCCO)=O | C34H40O7S
